US08217029B2
73.i) (3R*,4S*)-4-Benzylamino-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
To a solution of (RS)-4-oxo-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (commercial; 1 g, 3.9 mmol) in EtOH (15 mL) were added benzylamine (0.85 mL, 7.77 mmol) and AcOH (0.45 mL, 7.77 mmol) and the mixture was stirred 3 h at rt. Sodium cyanoborohydride (0.98 g, 15.5 mmol) was then added at rt and the mixture was heated to 75° C. for 5 h, then 15 h to 50° C. and again 1 h to 75° C. The mixture was concentrated under reduced pressure, water was added and the mixture extracted 3× with EA. The combined org. extracts were washed with brine dried over MgSO4 and concentrated under reduced pressure. The residue was purified by CC (Hep/EA from 2:1 to 1:1) to afford the title intermediate as a yellow oil (0.73 g, 54%).

reactant | (RS)-4-oxo-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 3.9 mmol, 1 g | C(C)OC(=O)C1CN(CC1=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | benzylamine | 7.77 mmol, 0.85 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | AcOH | 7.77 mmol, 0.45 mL | CC(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 15.5 mmol, 0.98 g | C(#N)[BH3-].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
product | (3R*,4S*)-4-Benzylamino-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 0.73 g, 54% | C(C)OC(=O)[C@@H]1CN(C[C@H]1NCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H28N2O4
